US07820704B2
{[2-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-thiophen-2-ylmethyl-amino}-acetic acid tert-butyl ester was prepared (149 mg) from [2-(4-isopropyl-phenyl)-pyrimidin-4-yl]-thiophen-2-ylmethyl-amine (135 mg, 0.44 mmol) and bromoacetic acid tert-butyl ester in THF by following the general procedure F. LCMS m/z: 425 (M+1)+.

reactant | [2-(4-isopropyl-phenyl)-pyrimidin-4-yl]-thiophen-2-ylmethyl-amine | 0.44 mmol, 135 mg | C(C)(C)C1=CC=C(C=C1)C1=NC=CC(=N1)NCC=1SC=CC1 | C18H19N3S
reactant | bromoacetic acid tert-butyl ester | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | THF | C1CCOC1 | C4H8O
product | {[2-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-thiophen-2-ylmethyl-amino}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN(CC=1SC=CC1)C1=NC(=NC=C1)C1=CC=C(C=C1)C(C)C)=O | C24H29N3O2S
